Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[H:1][O:2],5.56868853009
[H:14].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-2.00563380161
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][H:8]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[O:7][H:8],3.97404421369
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.59097192765
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.11884126064
[C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],-7.8232621646
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1],4.15999409
[C:1]=[C:2]([O:3][H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([O:6][H:7])=[C:8][H:9].[H:10],5.03267016747
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14],4.76005450966
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][C:10]([H:11])([H:12])[H:13],4.93857010944
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])[H:7].[H:1][C:4]([C:2])([H:3])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],7.604506060810001
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2],3.09677670548
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.59121967339
[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[C:4]=[C:5]([H:6])[H:7].[O:1]=[C:2][H:3],3.5295362801
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3],3.37718449878
[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-8.31104891
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]#[C:8][H:9]>>[H:1][C:2].[O:3]=[C:4]([H:5])[O:6][C:7]#[C:8][H:9],2.21274063391
[C:1]#[C:2].[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-7.839045707789999
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],2.06787623961
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],2.58868359159
[O:1]=[C:2]([H:3])[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[C:2]([H:3])#[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10].[O:1],3.46619498691
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.427175174619999
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:5]#[C:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:4],3.06804936617
[H:12].[H:1][O:2][C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.66652537555
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],1.87369483453
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[H:9].[O:4][H:5],2.82993151171
[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9]>>[C:5][C:6]([H:7])([H:8])[H:9].[O:1][O:2][C:3][H:4],6.10915214737
[H:1][C:2]([H:3])[C:4]#[C:5][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-3.10104528435
[H:12].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-1.93537436285
[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[O:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-1.86564978153
